US09403845B2
Preparation of acetic acid [2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-ylidene]-hydrazide (Compound 6.007)
A solution of 2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-8-one (125 mg, 0.43 mmol) and acetic acid hydrazide (47 mg, 0.63 mmol) in ethanol (5 ml) was heated at 75° C. overnight. The reaction mixture was evaporated to dryness, the residue was taken up in ethyl acetate and washed twice with water. The organic phase was dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate/methanol 19:1 gave the title product as white solid.

reactant | 2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-8-one | 0.43 mmol, 125 mg | N1=CC(=CC=C1)N1N=CC(=C1)C1=NC=2C(CCCC2C=C1)=O | C17H14N4O
reactant | acetic acid hydrazide | 0.63 mmol, 47 mg | C(C)(=O)NN | C2H6N2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | acetic acid [2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-ylidene]-hydrazide | N1=CC(=CC=C1)N1N=CC(=C1)C1=NC=2CCCC(C2C=C1)=NNC(C)=O | C19H18N6O
